US06686384B2
(1H-Benzimidazol-2-yl)-(2-chloro-6-methylphenyl)amine hydrochloride
2-Chloro-6-methylaniline (0.46 g) and 2-chlorobenzimidazole (0.5 g) were mixed in a flask and then kept at 170° C. for 30 min. After cooling, the residue was dissolved out of the flask with 1 N HCl and 10% ethanol at boiling heat. The material dissolved out was then stirred at RT for 30 min, then the insoluble material was filtered off with suction and the filtrate was evaporated. The residue was purified by means of preparative HPLC on RP-18 using acetonitrile/water (0.05% TFA). The clean fractions were combined, the acetonitrile was stripped off, the residue was adjusted to pH 10 with potassium carbonate solution, extracted three times with EA, and then the combined phases were dried, filtered, and concentrated. The residue was taken up using HCl/water and freeze-dried. 227 mg of the title compound were obtained.

reactant | 2-Chloro-6-methylaniline | 0.46 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 2-chlorobenzimidazole | 0.5 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (1H-Benzimidazol-2-yl)-(2-chloro-6-methylphenyl)amine hydrochloride | 227 mg | Cl.N1C(=NC2=C1C=CC=C2)NC2=C(C=CC=C2C)Cl | InChI=1S/C14H12ClN3.ClH/c1-9-5-4-6-10(15)13(9)18-14-16-11-7-2-3-8-12(11)17-14;/h2-8H,1H3,(H2,16,17,18);1H
